Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"I dunno where to start."

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year old freshman at ___ with no
prior psychiatric or medical history who presents to the ___ 
ED
on a ___ from ___ police after concerning statements about
wanting to bleed. Psychiatry is consulted for evaluation and
assistance with management and disposition.
Patient reports that he has been feeling "really bad" over the
past few weeks.  Patient stated that his worsening mood 
coincides
with a relationship with a girl he was interested in. He reports
that he was not "boyfriend and girlfriend," but he was
romantically interested in her. Pt reports that several weeks
ago, this girl informed him that she "just wanted to be 
friends."
Patient stated, "I felt like I was dead…I feel empty."  Patient
reports that he has felt increasing depressed mood since.  When
asked about SI, patient began crying, stating "I dunno….I'm not
over the hurdle of wanting to kill myself." Patient denies any
intent or plan, denies HI.  Patient endorses associated poor
appetite, denies difficulty with concentration, denies change in
sleep.  Patient reported feeling increasingly depressed this
morning, called this girl and told her, "I just want to bleed,"
but notes that he did not cut himself because "I didn't have
anything sharp enough." Pt did, however, make 3 burn marks on
volar aspect of L forearm, states he did this with a BIC 
lighter.
Pt denies any SIB prior to today, denies any suicide attempts in
the past. He denies any history of depressed mood prior to
current episode.  Patient reports, "I don't see any happiness in
my future. I feel empty and hopeless."  When asked how 
psychiatry
could be of service, pt again cried profusely. When asked if
inpatient hospitalization would be helpful, patient stated that
he initially did not want to come to the hospital, but now he is
not sure, acknowledging that he knows that he needs help.

COLLATERAL:
* Obtained from ___ Police, ___:
Police officer confirms that patient was texting with a female
friend. Police officer saw texts that stated that patient wanted
to harm himself and cut himself. Texts stated that that he
"wanted to bleed." Patient denied having any razors. Police 
found
patient in his dorm room. He appeared "rather 
disconnected…almost
seeming out of it, listening to Pink ___  He told police
officer, "I wanna bleed." Police officer states patient was on
his bed, playing with a thumbtack. Patient initially stated that
he absolutely did not want come in to the hospital, but after
discussion he became more agreeable to plan to come to ED for
evaluation.  Police reports that they have never dealt with the
patient before today. Police report that they have notified ___
mental health services. 

Psych ROS:
- Psychotic Symptoms: Denies auditory and visual hallucinations,
paranoia
- Manic Symptoms: Denies elevated mood, decreased sleep,
decreased need for sleep, increased goal-directed behaviors
(hypersexuality, drug abuse, gambling, spending),
distractibility, increased energy, racing thoughts
- Anxiety: Denies panic attacks
- Trauma: Denies history of emotional, physical, sexual abuse.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Diagnoses: Denies
- Hospitalizations: Denies
- Current treaters and treatment: States he first saw a 
therapist
in ___ during pre-kindergarten because he was "mischievous,"
and recalls therapist "did inkblots with me." States he saw
therapist in ___ again at age ___ "because my mom wanted me
to talk to someone because I had no friends."
- Medication and ECT trials: None
- Self-injury: Denies prior to today. See HPI for current 
burning
on L forearm
- Harm to others: Denies
- Access to weapons: Denies access to guns, firearms, or weapons
PAST MEDICAL HISTORY:
Denies
- Denies h/o head injuries or seizure

 
Social History:
SUBSTANCE ABUSE HISTORY:
- EtOH: "Couple beers every 1 or two weeks"
- Tobacco: Denies
- Marijuana: "I take a few hits every weekend."
-Mushrooms: report he tried for first time yesterday
- Opiates, including heroin: denies, denies IVDU
-Denies any other illicit drug use

FORENSIC HISTORY:
- Arrests: denies
- Convictions and jail terms: denies
- Current status (pending charges, probation, parole): NA

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Completed or attempted suicide: denies
- Substance use or dependence: denies
- Mental Illness: denies

 
Physical Exam:
EXAM:
*VS:  T 98.4 HR 61 BP 154/92 RR 18 SpO2: 99% on RA
Neurological:
 *station and gait: normal stance, no truncal ataxia, steady 
gait
 *tone and strength: moves all 4 extremities spontaneously and
against gravity
 cranial nerves: II-XII intact
 abnormal movements: no tremor or abnormal posturing, no
asterixis
 tremulousness: none present
 frontal release: not assessed

Cognition:
 Wakefulness/alertness: awake and alert
 *Attention (digit span, MOYB): correctly lists MOYB but slowly
with some difficulty
 *Orientation: oriented to person, time, place, situation
 Executive function (go-no go, Luria, trails, FAS): not assessed
 *Memory: ___ registry, ___ recall after 5 minutes
 *Fund of knowledge: able to name 3 most recent US Presidents in
descending order, states, "I know more US politics than most
Americans, but it's useless."
 Calculations: $1.75 = "7 quarters"
 Abstraction: apple/orange = "fruit"
 Visuospatial: not assessed
 *Speech: Quiet volume, slow rate at times, normal prosody and
tone
 *Language: Native ___ speaker, speaks ___ fluently with
no paraphasic errors, appropriate to conversation
Mental Status:
 *Appearance: Fair appearing young man in no apparent distress,
appears stated age, good hygiene, appropriately dressed in
hospital gown, eyes bloodshot. 3 burn marks on volar aspect L
forearm
 Behavior: Crying throughout majority of interview. Answers most
questions appropriately, although at times requires redirection. 

Fair to poor eye contact, often covering eyes with hands. No
abnormal posturing, no psychomotor agitation or retardation
 *Mood / Affect: "Bad, hopeless" / Dysphoric, crying throughout
majority of interview, mood congruent, normal range
 *Thought process / *associations: Linear, coherent,
goal-oriented, associations intact
 *Thought Content: Passive SI without plan, as per HPI. Denies
HI/AH/VH, no evidence of delusions or paranoia, does not appear
to be responding to internal stimuli
 *Judgment: Questionable
 *Insight: Fair

 
Pertinent Results:
___ 09:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:00PM URINE  COLOR-Yellow APPEAR-Cloudy SP ___
___ 09:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-80 BILIRUBIN-NEG UROBILNGN-2* PH-7.5 LEUK-NEG
___ 09:00PM URINE  RBC-2 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 09:00PM URINE  AMORPH-OCC
___ 09:00PM URINE  MUCOUS-MANY
___ 06:20PM   GLUCOSE-84 UREA N-10 CREAT-0.9 SODIUM-136 
POTASSIUM-3.7 CHLORIDE-100 TOTAL CO2-22 ANION GAP-18
___ 06:20PM   estGFR-Using this
___ 06:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:20PM   WBC-12.0* RBC-5.28 HGB-16.2 HCT-45.9 MCV-87 
MCH-30.7 MCHC-35.3 RDW-12.0 RDWSD-37.8
___ 06:20PM   NEUTS-74.0* LYMPHS-17.0* MONOS-8.0 EOS-0.2* 
BASOS-0.4 IM ___ AbsNeut-8.90* AbsLymp-2.05 AbsMono-0.96* 
AbsEos-0.03* AbsBaso-0.05
___ 06:20PM   PLT COUNT-226
 
Brief Hospital Course:
PSYCHIATRIC:
#On admission to the inpatient psychiatric unit, patient was 
dysphoric, tearful, and stated that he had had intermittent 
suicidal ideation over the past week. He stated that he was 
willing to receive care, but that he did not feel that he needed 
to be in an inpatient psychiatric unit. He signed a Conditional 
Voluntary agreement, but soon after signed a three-day notice.

During hospitalization, patient met daily with the team to 
discuss his ongoing symptoms and the triggers leading up to 
hospitalization. He received individual, group, and milieu 
therapy. He was able to endorse adjustment to the ___, 
increased independence being in college and in a new country on 
his own, and particularly his difficult relationship with his 
female friend as being the main contributors to his depressed 
mood and suicidal ideation. He refused any medications, as he 
felt that taking medications would not be consistent with his 
beliefs, or the beliefs of his parents. He did accept Vistaril 
for insomnia and anxiety, with good effect.

On discharge, mood was "better," and mental status exam was 
significant for brighter affect, linear, goal-directed thought 
process, intact cognition, and denial of any suicidal thought, 
intention, or plan.

SAFETY: The patient remained in good behavioral control 
throughout this hospitalization and did not require physical or 
chemical restraint. The patient remained on 15 minute checks, 
which is our lowest acuity level of checks.

GENERAL MEDICAL CONDITIONS:
#) Burn wound: On left inner forearm, self-inflicted with 
lighter. Bacitracin was applied twice daily to burn wounds.
-Continue Bacitracin ointment application BID
-F/u with PCP as needed

PSYCHOSOCIAL:
#) MILIEU/GROUPS: The patient was somewhat isolative, though he 
did spend some time reading in the day room. He was visible in 
the milieu, but was seldom seen interacting with peers. He did 
not attend groups, stating that he did not believe he would 
benefit from them. He never engaged in any unsafe behaviors. He 
ate meals in the milieu, slept well, and cooperated with unit 
rules.

#) FAMILY CONTACTS: Family meetings were held with the patient's 
parents, and were notable for increasing communication and 
understanding of the severity of the patient's symptoms, 
particularly his self-injurious behavior. His parents understand 
and are in agreement with the current treatment and discharge 
plan. 

#) COLLATERAL: Collaborated with ___ throughout 
the admission. They agree with current treatment and discharge 
plan.

LEGAL STATUS: Patient signed a three-day notice, which expired 
on day of discharge.

RISK ASSESSMENT: 
This patient is not currently abusing subtances, is not suicidal 
or homicidal, is feeling well and is animated, euthymic, and 
participatory in the milieu, all of which indicate a low 
immediate risk of harm.
Static risk factors include:
-Impulsive tendencies, immigration status
Modifiable risk factors include:
-hopelessness, active polysubstance abuse, limited social 
support, sense of isolation, active SI
We modified these risks by increasing the patient's insight 
surrounding the seriousness of his actions, and engaging him 
fully in care, particularly surrounding his polysubstance use 
and its risk.
Protective factors include:
-strong connections to family, lack of financial stressors, 
help-seeking behavior
Current risk is low for intentional self-harm given that the 
patient denies suicial ideation, intent, and plan, is accepting 
of treatment, is currently sober, and is future oriented with 
plans to return to school and continue his ___ degree.

INFORMED CONSENT:
I discussed the indications for, intended benefits of, and 
possible side effects of this medication, and risks and benefits 
of possible alternatives, including not taking the medication, 
with the patient. We discussed the patient's right to decide 
whether to take this medicaiton as well as the importance of the 
patient's actively participating in the treatment and discussing 
any questions about medications with the treatment team, and I 
answered the patient's questions. The patient appeared able to 
understand and consented to begin the medication.

PROGNOSIS:
The patient's prognosis is good, due to the fact that he has no 
prior suicide attempts, no prior episodes of self-injurious 
behavior, and no prior hospitalizations. He is willing to engage 
in outpatient treatment, is currently sober, and refuses 
suicidal ideation, intent, or plan.

 
Medications on Admission:
No medications on admission
 
Discharge Medications:
1. Bacitracin Ointment 1 Appl TP BID 
RX *bacitracin zinc [Antibiotic (bacitracin zinc)] 500 unit/gram 
Apply to burn wounds twice a day Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified depressive disorder
 
Discharge Condition:
Objective:
     Exam:
  *VS:  BP: 134/94 HR: 108 temp: 98.5  resp: 18  O2 sat: 100% RA

  Neurological:
    *station and gait: intact
    *tone and strength: intact
  *Appearance: ___ year old male appearing younger than stated
age, moderately groomed in own street clothes
  Behavior: cooperative with interview, appropriate eye contact,
mild psychomotor slowing
  *Mood and Affect: "I'm fine," affect is full, euthymic
  *Thought process: linear, goal-directed
  *Thought Content: denies current SI, denies HI, denies AVH
  *Judgment and Insight: limited/limited
  Cognition:
    *Attention, *orientation, and executive function: attentive
to interview, AAOx3
    *Memory: grossly intact
    *Fund of knowledge: appears appropriate for age/level of
education
    *Speech: normal rate, volume, prosody
    *Language: fluent ___ 

 
Discharge Instructions:
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___